US08039455B2
c) 2-(Acetyl-allyl-amino)-6-chloro-isonicotinic acid
A solution of 1.08 g 2-(acetyl-allyl-amino)-6-chloro-isonicotinic acid ethyl ester (3.82 mmol) in 15 ml MeOH is treated with 5.5 ml 1N NaOH (5.5 mmol) and stirred at 25° C. for 30 min. The reaction is quenched with 6 ml 1 N HCl and with EtOAc extracted. Crystallization from a small amount of EtOAc gives the title compound as yellow crystals.

reactant | 2-(acetyl-allyl-amino)-6-chloro-isonicotinic acid ethyl ester | 3.82 mmol, 1.08 g | C(C)OC(C1=CC(=NC(=C1)Cl)N(CC=C)C(C)=O)=O | C13H15ClN2O3
reactant | NaOH | 5.5 mmol, 1N, 5.5 ml | [OH-].[Na+]
solvent | MeOH | 15 ml | CO | CH4O
product | 2-(Acetyl-allyl-amino)-6-chloro-isonicotinic acid | C(C)(=O)N(C=1C=C(C(=O)O)C=C(N1)Cl)CC=C | C11H11ClN2O3
